US08013010B2
3-(2-Methoxy-3-pyridinyl)phenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside
By carrying out the operation analogously to example 3, starting from 3-iodophenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside, obtained according to preparation I, and 2-methoxy-3-pyridineboronic acid, the expected product is obtained in the form of a white powder with a yield of 66%.

reactant | 3-iodophenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside | C(C)(=O)O[C@H]1[C@H](OC2=CC(=CC=C2)I)SC[C@H]([C@@H]1OC(C)=O)OC(C)=O | C17H19IO7S
reactant | 2-methoxy-3-pyridineboronic acid | COC1=NC=CC=C1B(O)O | C6H8BNO3
product | 3-(2-Methoxy-3-pyridinyl)phenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside | yield of 66% | C(C)(=O)O[C@H]1[C@H](OC2=CC(=CC=C2)C=2C(=NC=CC2)OC)SC[C@H]([C@@H]1OC(C)=O)OC(C)=O | C23H25NO8S
